US04031226
A mixture of 0.9 parts of N-{2-[4-(5-chloro-2,3-dihydro-2-oxo-1H-benzimidazol-1yl)-1-piperidinyl]ethyl}-4-fluoro-2-nitrobenzamide in 80 parts of methanol is hydrogenated at normal pressure and at room temperature with 1 part of Raney-nickel catalyst. After the calculated amount of hydrogen is taken up, the catalyst is filtered off and the filtrate is evaporated. The residue is converted into the hydrochloride salt in 4-methyl-2-pentanone and 2-propanol. The salt is filtered off and crystallized from a mixture of 2-propanone and water, yielding 0.2 parts of 2-amino-N-{2-[4-(5-chloro-2,3-dihydro-2-oxo-1H-benzimidazol-1yl)-1-piperidinyl]ethyl}-4-fluorobenzamide hydrochloride dihydrate; mp. 250° C.

reactant | N-{2-[4-(5-chloro-2,3-dihydro-2-oxo-1H-benzimidazol-1yl)-1-piperidinyl]ethyl}-4-fluoro-2-nitrobenzamide | ClC1=CC2=C(N(C(N2)=O)C2CCN(CC2)CCNC(C2=C(C=C(C=C2)F)[N+](=O)[O-])=O)C=C1 | C21H21ClFN5O4
reactant | hydrogen | [H][H] | H2
catalyst | Raney-nickel | [Ni] | Ni
solvent | methanol | CO | CH4O
product | 2-amino-N-{2-[4-(5-chloro-2,3-dihydro-2-oxo-1H-benzimidazol-1yl)-1-piperidinyl]ethyl}-4-fluorobenzamide hydrochloride dihydrate | O.O.Cl.NC1=C(C(=O)NCCN2CCC(CC2)N2C(NC3=C2C=CC(=C3)Cl)=O)C=CC(=C1)F | InChI=1S/C21H23ClFN5O2.ClH.2H2O/c22-13-1-4-19-18(11-13)26-21(30)28(19)15-5-8-27(9-6-15)10-7-25-20(29)16-3-2-14(23)12-17(16)24;;;/h1-4,11-12,15H,5-10,24H2,(H,25,29)(H,26,30);1H;2*1H2
